US07759382B2
A solution of 0.67 g (1.3 mmol) of {1-[2-tert-butyl-5-(4-phenylpiperidin-4-yl)-2H-pyrazol-3-ylcarbamoyl]ethyl}carbamic acid benzyl ester, 0.33 mL (4.0 mmol) of 37% aq. formaldehyde, 0.33 g (4.0 mmol) of NaOAc and 0.27 g (4.3 mmol) of NaCNBH3 in 10 mL of MeOH was stirred at rt. After 16 h, the reaction mixture was concentrated and extracted with water and EtOAc. The organic layer was dried over MgSO4, and concentrated. Purification on silica gel using 4% Et3N-MeOH as eluant afforded {1-[2-tert-butyl-5-(1-methyl-4-phenylpiperidin-4-yl)-2H-pyrazol-3-ylcarbamoyl]ethyl}carbamic acid benzyl ester.

reactant | {1-[2-tert-butyl-5-(4-phenylpiperidin-4-yl)-2H-pyrazol-3-ylcarbamoyl]ethyl}carbamic acid benzyl ester | 1.3 mmol, 0.67 g | C(C1=CC=CC=C1)OC(NC(C)C(NC=1N(N=C(C1)C1(CCNCC1)C1=CC=CC=C1)C(C)(C)C)=O)=O | C29H37N5O3
reactant | formaldehyde | 4.0 mmol, 0.33 mL | C=O | CH2O
reactant | NaOAc | 4.0 mmol, 0.33 g | CC(=O)[O-].[Na+]
reactant | NaCNBH3 | 4.3 mmol, 0.27 g | [BH3-]C#N.[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | {1-[2-tert-butyl-5-(1-methyl-4-phenylpiperidin-4-yl)-2H-pyrazol-3-ylcarbamoyl]ethyl}carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC(C)C(NC=1N(N=C(C1)C1(CCN(CC1)C)C1=CC=CC=C1)C(C)(C)C)=O)=O | C30H39N5O3
